US09062034B2
(d) 3-amino-tetrahydro-furan-3-carboxylic acid-hydrochloride
3.5 g (15.1 mmol) 3-tert.-butoxycarbonylamino-tetrahydro-furan-3-carboxylic acid are dissolved in 150 ml of 1-molar hydrochloric acid and stirred for 1 h at room temperature. Then the reaction mixture is lyophilised.

reactant | 3-tert.-butoxycarbonylamino-tetrahydro-furan-3-carboxylic acid | 15.1 mmol, 3.5 g | C(C)(C)(C)OC(=O)NC1(COCC1)C(=O)O | C10H17NO5
reactant | hydrochloric acid | 1-molar, 150 ml | Cl | ClH
product | 3-amino-tetrahydro-furan-3-carboxylic acid-hydrochloride | Cl.NC1(COCC1)C(=O)O | InChI=1S/C5H9NO3.ClH/c6-5(4(7)8)1-2-9-3-5;/h1-3,6H2,(H,7,8);1H
